US08431563B2
To a mixture of 2-piperazinone (0.98 g, 9.79 mmol, Sigma-Aldrich, St. Louis, Mo.) and triethylamine (Aldrich, 2.0 mL, 14.35 mmol) in CH2Cl2 (20 mL) at 0° C. was added a solution of 2-thiophenesulfonyl chloride (1.79 g, 9.79 mmol, Sigma-Aldrich, St. Louis, Mo.) in CH2Cl2 (10 mL). After 30 min, the mixture was diluted with saturated aqueous NaHCO3 (10 mL) and stirred at room temperature for 3 d. The slurry was filtered and washed with water (3×5 mL) to give 4-(2-thiophenylsulfonyl)-2-piperazinone as a white powder (2.1 g).

reactant | 2-piperazinone | 9.79 mmol, 0.98 g | N1C(CNCC1)=O | C4H8N2O
reactant | triethylamine | 14.35 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 9.79 mmol, 1.79 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 4-(2-thiophenylsulfonyl)-2-piperazinone | 2.1 g | S1C(=CC=C1)S(=O)(=O)N1CC(NCC1)=O | C8H10N2O3S2
